US07700782B2
i) Benzyl {3-[(2-{[(benzyloxy)carbonyl][2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)(cycloheptyl)amino]-3-oxopropyl}(2-phenylethyl)carbamate
Chlorotrimethylsilane (1.323 mL) was added to a cooled (0° C.) solution of benzyl 2-(cycloheptylamino)ethyl(2-(4-hydroxy-2-oxo-2,3-dihydrobenzo[d]thiazol-7-yl)ethyl)carbamate, prepared as in Example 23 step i) (1.260 g) and triethylamine (1.81 mL) in dichloromethane (35 mL). The reaction mixture was stirred at room temperature for 2 h then a solution of benzyl 3-chloro-3-oxopropyl(phenethyl)carbamate, prepared as in Example 5 step ii) (0.991 g) in dichloromethane (10 mL) was added. The reaction mixture was stirred at room temperature for 4 h then diluted with ethyl acetate and washed with 2M hydrochloric acid (×2) and saturated sodium hydrogen carbonate. The organic layer was separated, washed with water and saturated brine, dried over sodium sulphate, filtered and evaporated. The crude product was purified by flash silica chromatography (Biotage), elution gradient 1 to 6% methanol in dichloromethane. Fractions containing product were evaporated to dryness to afford the product as a yellow foam (1.416 g). The material was used in the next step directly.

reactant | Chlorotrimethylsilane | 1.323 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | benzyl 2-(cycloheptylamino)ethyl(2-(4-hydroxy-2-oxo-2,3-dihydrobenzo[d]thiazol-7-yl)ethyl)carbamate | C1(CCCCCC1)NCCN(C(OCC1=CC=CC=C1)=O)CCC1=CC=C(C=2NC(SC21)=O)O | C26H33N3O4S
reactant | triethylamine | 1.81 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl 3-chloro-3-oxopropyl(phenethyl)carbamate | ClC(CCN(C(OCC1=CC=CC=C1)=O)CCC1=CC=CC=C1)=O | C19H20ClNO3
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl {3-[(2-{[(benzyloxy)carbonyl][2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)(cycloheptyl)amino]-3-oxopropyl}(2-phenylethyl)carbamate | 1.416 g | C(C1=CC=CC=C1)OC(=O)N(CCN(C(CCN(C(OCC1=CC=CC=C1)=O)CCC1=CC=CC=C1)=O)C1CCCCCC1)CCC1=CC=C(C=2NC(SC21)=O)O | C45H52N4O7S
